US08791123B2
Step A: Preparation of (S)-ethyl 2-(tert-butoxycarbonylamino)-5-(5-fluoropyridin-3-yl)-5-oxopentanoate
A solution of 3-bromo-5-fluoropyridine (4.28 g, 24.3 mmol) in dry THF (25 mL) was cooled to −40 to −50° C. and 2M isopropylmagnesium chloride in THF (10.2 mL, 20.4 mmol) was added. The mixture was allowed to warm to 0° C. and was stirred for 30 minutes. The mixture was cooled to −20° C. and a solution of (S)-1-tert-butyl 2-ethyl 5-oxopyrrolidine-1,2-dicarboxylate (5.00 g, 19.4 mmol) in dry THF (15 mL) was added. The mixture was allowed to reach ambient temperature over 30 minutes and was stirred at ambient temperature for 30 minutes. The reaction was slowly quenched with 2M HCl (10 mL, 20.0 mmol) followed by 10% aqueous NH4Cl (10 mL). The mixture was stirred for 10 minutes and was transferred to a separatory funnel using MTBE rinses (10 mL). Heptane (15 mL) was added and the organic layer was removed. The organic layer was washed 10% aqueous NH4Cl (25 mL) and DI H2O (25 mL). The organic layer was concentrated to provide the crude product as a yellow oil (7.03 g, 102%).

reactant | 3-bromo-5-fluoropyridine | 24.3 mmol, 4.28 g | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | isopropylmagnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | (S)-1-tert-butyl 2-ethyl 5-oxopyrrolidine-1,2-dicarboxylate | 19.4 mmol, 5.00 g | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OCC | C12H19NO5
reactant | HCl | 20.0 mmol, 2M, 10 mL | Cl | ClH
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20.4 mmol, 10.2 mL | C1CCOC1 | C4H8O
solvent | Heptane | 15 mL | CCCCCCC | C7H16
solvent | MTBE | CC(C)(C)OC | C5H12O
product | (S)-ethyl 2-(tert-butoxycarbonylamino)-5-(5-fluoropyridin-3-yl)-5-oxopentanoate | 7.03 g, 102% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)CCC(=O)C=1C=NC=C(C1)F | C17H23FN2O5
